Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This is a ___ with hx of perforating and fistulizing ileocolonic
CD (ileitis and sigmoiditis) s/p ileocolonic resection and
ileo-ascending colostomy in ___, since then in remission, with 
a
hx of recurrent SBO who presents with n/v, abdominal pain,
admitted to the CRS for SBO. 

Pt has had numerous SBOs (last one ___ which always responds 
to
conservative management, obstructions though likely due to
adhesions from prior surgeries. Multiple negative small bowel
series and MRE in ___. Dx's in ___, same year had 
ileocecectomy
and sigmoidectomy (for perforation with ileosigmoid fistula) in
___ (a total of 15cm of ileum and 12cm of sigmoid resected).
Last colonoscopy ___ - erosion at anastomosis and normal TI. 

Last see in clinic by Dr. ___ in ___. Noted to be doing
well at that visit. Not on treatment for Crohn's. Was doing well
until recently after getting back from vacation in ___ with a lot of physical activity, pt thinks he may 
have
gotten dehydrated. Day of admission, started feeling nausea,
abdominal pain ___ lower abdomen) and knew that he was likely
having an obstruction. Came to the ED and vomited ___. Admitted
for SBO management. NG tube came out this morning and passing 
gas
now, tolerated clear liquid diet today at lunch. Denies fever,
chills, n/v. Mild abd pain but improved. Normal BM ___ a day of
well formed stool. Had a BM this morning after eating, hard
formed stool. 
 
Past Medical History:
- Crohn's as above
- chickenpox
- broken finger
- C5-C6 disc herniation.
- tennis elbow
- No risk factors for tuberculosis except for business
travel to ___ and ___.
 
Social History:
___
Family History:
- No inflammatory bowel disease, colon cancer or colon polyps. 
- Parents alive. Dad - HTN. Mom healthy. 
- Maternal grandfather died of lung cancer.  A maternal
grandmother died of "diabetes".
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==========================
VITAL SIGNS: 98.8 70 128/92 16 100% RA 
GENERAL: AAOx3 NAD
HEENT: NCAT, EOMI, PERRLA, No scleral icterus, mucosa moist, no
LAD
CARDIOVASCULAR: R/R/R, S1/S2, NO M/R/G
PULMONARY: CTA ___, No crackles or rhonchi
GASTROINTESTINAL: S/Diffusely TTP/Mildly distended. No guarding,
rebound, or peritoneal signs. +BSx4 
INCISION/WOUNDS: C/D/I. Soft, no hematoma or ecchymosis
EXT/MS/SKIN: No C/C/E; Feet warm. Good perfusion.
NEUROLOGICAL: Reflexes, strength, and sensation grossly intact
CNII-XII: WNL

DISCHARGE SUMMARY
=====================

general: patient well, denies pain, no nausea, no vomiting
VSS
Neuro: A&OX3 
Cardio/Pulm: no chest pain or shortness of breath
Abd: obese, nondistended
___: no lower extremity edema
 
Pertinent Results:
ADMISSION LABS
===================
___ 10:40PM BLOOD WBC-12.4*# RBC-5.78 Hgb-16.9 Hct-49.9 
MCV-86 MCH-29.2 MCHC-33.9 RDW-12.7 RDWSD-39.5 Plt ___
___ 10:40PM BLOOD Neuts-85.1* Lymphs-8.6* Monos-4.8* 
Eos-0.2* Baso-0.5 Im ___ AbsNeut-10.53* AbsLymp-1.06* 
AbsMono-0.59 AbsEos-0.02* AbsBaso-0.06
___ 10:40PM BLOOD Plt ___
___ 10:40PM BLOOD Glucose-134* UreaN-25* Creat-1.0 Na-137 
K-4.1 Cl-99 HCO3-25 AnGap-17
___ 10:40PM BLOOD ALT-38 AST-20 AlkPhos-89 TotBili-0.5
___ 10:40PM BLOOD Lipase-27
___ 10:40PM BLOOD Albumin-4.9

IMAGING
===================
___: CXR
Impression: No radiographic evidence of free intraperitoneal 
air.

___: CT Ab/Pelv w/ Contrast
IMPRESSION
1. Small bowel obstruction with transition point in the right 
lower quadrant. 
Small bowel loops demonstrate normal enhancement and wall 
thickness.  No
mesenteric free fluid.
2. Multiple prominent mesenteric lymph nodes are nonspecific, 
and may be
reactive in the setting of small bowel obstruction.
 
OTHER PERTINENT LABS
===================
___ 07:15AM BLOOD WBC-8.0 RBC-5.32 Hgb-15.5 Hct-46.6 MCV-88 
MCH-29.1 MCHC-33.3 RDW-12.9 RDWSD-41.0 Plt ___
___ 02:20AM URINE Color-Straw Appear-Clear Sp ___
___ 02:20AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 02:20AM URINE RBC-4* WBC-0 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 02:20AM URINE Mucous-RARE
 
Brief Hospital Course:
Mr. ___ was admitted from the emergency department to the 
inpatient colorectal surgery service with a small bowel 
obstruction. On hospital day one, he passed gas and had a bowel 
movements. Pain and nausea were resolved. He tolerated a regular 
diet. On the morning of hospital day two, he was discharged 
home. He should call the colorectal surgery clinic with any 
questions or concerns related to hospital admission or any 
further bowel obstruction symptoms. He will see GI in clinic to 
discuss colonoscopy and further treatment of crohns disease. 
 
Medications on Admission:
none
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Bowel Obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for a small bowel obstruction. 
You were given bowel rest and intravenous fluids and a 
nasogastric tube was placed in your stomach to decompress your 
bowels. Your obstruction has subsequently resolved after 
conservative management. You have tolerated a regular diet, are 
passing gas. You may return home to finish your recovery.  
 
If you have any of the following symptoms please call the office 
for advice or go to the emergency room if severe: increasing 
abdominal distension, increasing abdominal pain, nausea, 
vomiting, inability to tolerate food or liquids, prolonged loose 
stool, or extended constipation.  

Please keep your follow-up appointment with Dr. ___ 
further care of your Crohns Disease. 

Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. 

Good luck!  

 
Followup Instructions:
___